US08022223B2
Preparation of N-(5-bromo-3-phenoxypyridin-2-yl)-4-(2-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl)thiazol-2-amine
To a mixture of 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)propanoic acid (0.100 g, 0.238 mmol), DIEA (0.0456 mL, 0.262 mmol) in 5 mL DMF at ambient temperature was added N-((dimethylamino)fluoromethylene)-N-methylmethanaminium hexafluorophosphate (V) (0.0628 g, 0.238 mmol). The mixture was stirred for 30 minutes at ambient temperature and then N-hydroxyacetamidine (0.0194 g, 0.262 mmol) was added in one portion and the reaction was heated at 110° C. overnight. The reaction was then cooled to ambient temperature and EtOAc was added and the organic layer washed with water (2×10 mL), dried over Na2SO4 and concentrated to a residue that was purified on silica gel eluting with 25% EtOAc/Hexanes to give 5 the title compound (0.067 g, 61.4% yield). 1H NMR (d6 DMSO) δ 2-29 (s, 3H), 3.04 (t, 7.6 Hz, 2H), 3.26 (t, J=7.6 Hz, 2H), 6.74 (s, 1H), 7.11 (d, J=7.8 Hz, 2H), 7.21 (t, J=7.3 Hz, 1H), 7.40 (d, J=2.0 Hz, 1H), 7.44 (t, J=8.0 Hz, 2H), 8.22 (d, J=2.0 Hz, 1H), 11.00 (s, 1H).

reactant | 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)propanoic acid | 0.238 mmol, 0.100 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCC(=O)O)OC1=CC=CC=C1 | C17H14BrN3O3S
reactant | DIEA | 0.262 mmol, 0.0456 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-((dimethylamino)fluoromethylene)-N-methylmethanaminium hexafluorophosphate (V) | 0.238 mmol, 0.0628 g | CN(C)C(=[N+](C)C)F.F[P-](F)(F)(F)(F)F
reactant | N-hydroxyacetamidine | 0.262 mmol, 0.0194 g | ONC(C)=N | C2H6N2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(5-bromo-3-phenoxypyridin-2-yl)-4-(2-(3-methyl-1,2,4-oxadiazol-5-yl)ethyl)thiazol-2-amine | 0.067 g, 61.4% yield | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCC1=NC(=NO1)C)OC1=CC=CC=C1 | C19H16BrN5O2S
